US07217777B2
205.3 g (0.5 mol) of a molar-mass distributed polyether having the average structure CH2═CHCH2(OCH2CH2)8OH were placed under nitrogen at room temperature. Within 30 minutes, 63.4 g (0.55 mol) chloroacetic acid chloride were added dropwise, under intense stirring. During the dropwise addition, the temperature increased to 67° C., and an intensive formation of HCl set in. Upon completion of the dropwise addition, the batch was heated to 120° C. for 40 minutes. Finally all constituents boiling at up to 120° C. and 20 hPa were then removed via distillation. 243.6 g of a yellow, viscous liquid of the composition CH2═CHCH2(OCH2CH2)8OC(O)CH2Cl were obtained. It was determined using gas chromatography that neither chloroacetic acid chloride, chloroacetic acid, nor the OH-terminated oligoethylene glycols are present in the reaction product.

reactant | CH2═CHCH2(OCH2CH2)8OH | C=CCOCCOCCOCCOCCOCCOCCOCCOCCO | C19H38O9
reactant | chloroacetic acid chloride | 0.55 mol, 63.4 g | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | Cl | ClH
product | CH2═CHCH2(OCH2CH2)8OC(O)CH2Cl | C=CCOCCOCCOCCOCCOCCOCCOCCOCCOC(=O)CCl | C21H39ClO10
